US04109088
To 50 ml. of anhydrous tetrahydrofuran was added 1g. (0.04 atom) of magnesium and then methyl bromide was added dropwise to the mixture at 5°-10° C. to provide a Grignard reagent. Then, a solution prepared by dissolving 2 g. (0.004 mole) of 2-(1-oxo-4-indanyloxymethyl)-4-triphenylmethyl morpholine in 20 ml. of anhydrous tetrahydrofuran was added dropwise to the reagent at 5°-10° C. Then, the mixture was stirred for 3 hours at room temperature and the solvent was distilled off under reduced pressure. The residue formed was mixed with saturated aqueous ammonium chloride solution and the mixture was extracted with chloroform. The extract obtained was washed with water, dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue formed was dissolved in 20 ml. off trifluoroacetic acid under ice-cooling and 20 ml. of water was immediately added to the solution followed by stirring for 15 minutes at 5°-10° C. The reaction mixture was neutralized with sodium hydrogencarbonate and extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Thereafter, the residue formed was subjected to a silica gel column chromatography (diameter 3 cm., height 7 cm.) and from the fraction recovered therefrom using a 8 : 2 mixture of chloroform and methanol 820 mg. of sticky 2-(1-hydroxy-1-methyl-4-indanyloxymethyl)morpholine was obtained.

reactant | 2-(1-oxo-4-indanyloxymethyl)-4-triphenylmethyl morpholine | 0.004 mole | O=C(C1CN(CCO1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC1=C2CCCC2=CC=C1 | C33H31NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(1-hydroxy-1-methyl-4-indanyloxymethyl)morpholine | OC(C)(C1CNCCO1)OC1=C2CCCC2=CC=C1 | C15H21NO3
